US03957871
A solution of 0.9 g. (4 mmole) of 4-(phenylethynyl)-benzyl chloride in 3 ml. of cyclopropylamine is heated to refluxing for 2 hours and then is allowed to stand at room temperature for several days. Another 1 ml. of cyclopropylamine is added and the solution is heated to refluxing for 4 hours. After evaporation of the excess cyclopropylamine, the residue is triturated with ether and the precipitate removed by filtration. The ethereal filtrate is evaporated and the residual oil dissolved in benzene. This solution is shaken with 10 ml. of 3N hydrochloric acid. The white crystalline hydrochloride salt of the product precipitates. It is collected and recrystallized twice from absolute methanol to give N-cyclopropyl-4-(phenylethynyl)-benzylamine hydrochloride, m.p. 210°-212°C. dec.

reactant | 4-(phenylethynyl)-benzyl chloride | 4 mmole | C1(=CC=CC=C1)C#CC1=CC=C(CCl)C=C1 | C15H11Cl
reactant | cyclopropylamine | C1(CC1)N | C3H7N
product | N-cyclopropyl-4-(phenylethynyl)-benzylamine hydrochloride | Cl.C1(CC1)NCC1=CC=C(C=C1)C#CC1=CC=CC=C1 | InChI=1S/C18H17N.ClH/c1-2-4-15(5-3-1)6-7-16-8-10-17(11-9-16)14-19-18-12-13-18;/h1-5,8-11,18-19H,12-14H2;1H
